US04359420
10 g (50.6 mmol) of 6-chloroisatoic acid anhydride are stirred at 110° C. for 2 hours with 5.82 g (50.6 mmol) of L-proline in 80 ml of dimethyl sulphoxide. The solution is evaporated and the residue is crystallised from ethyl acetate. There is obtained (S)-6-chloro-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione of melting point 264°-266° C.

reactant | 6-chloroisatoic acid anhydride | 50.6 mmol, 10 g | ClC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4ClNO3
reactant | L-proline | 50.6 mmol, 5.82 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethyl sulphoxide | 80 ml | CS(=O)C | C2H6OS
product | (S)-6-chloro-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | ClC1=CC=CC2=C1C(N1[C@H](C(N2)=O)CCC1)=O | C12H11ClN2O2
